US06544985B2
(5-(Isobutyl-methyl-amino)-4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester (Example J38) (307 mg, 1.0 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K4) (301 mg, 1.0 mmol) according to the general procedure M. Obtained as a light yellow foam (330 mg, 62%).

reactant | [2-amino-5-(isobutyl-methyl-amino)-4-methyl-phenyl]-carbamic acid tert-butyl ester | 1.0 mmol, 307 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)N)=O | C17H29N3O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 301 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (5-(Isobutyl-methyl-amino)-4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C30H38N4O5
